US06028195
4-{1-[5-({[4-(3,5-Dimethoxyphenyl)piperazino]carbonyl}amino)-6-methoxy-2-methylpyridin-3-yl]ethoxy}-4-oxobutanoic acid
1-{[5-(1-Hydroxyethyl)-2-methoxy-6-methylpyridin-3-yl]aminocarbonyl}-4-(3,5-dimethoxyphenyl)piperazine(107 mg, 0.25 mmol) and dimethylaminopyridine(3 mg, 0.025 mmol) were dissolved in pyridine and anhydrous succinic acid(50 mg, 0.5 mmol) was added. The mixture was stirred at room temperature for 5 hrs. Distilled water was added into the above mixture. The above solution was extracted with CH2Cl2 and the organic phase washed with 1N-HCl and then concentrated under the reduced pressure to remove the solvent. The concentrate was purified by column chromatography(dichloromethane:methanol=20:1) to obtain the titled compound.

reactant | 1-{[5-(1-Hydroxyethyl)-2-methoxy-6-methylpyridin-3-yl]aminocarbonyl}-4-(3,5-dimethoxyphenyl)piperazine | 0.25 mmol, 107 mg | OC(C)C=1C=C(C(=NC1C)OC)NC(=O)N1CCN(CC1)C1=CC(=CC(=C1)OC)OC | C22H30N4O5
reactant | dimethylaminopyridine | 0.025 mmol, 3 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | succinic acid | 0.5 mmol, 50 mg | C(CCC(=O)O)(=O)O | C4H6O4
reactant | water | O | H2O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-{1-[5-({[4-(3,5-Dimethoxyphenyl)piperazino]carbonyl}amino)-6-methoxy-2-methylpyridin-3-yl]ethoxy}-4-oxobutanoic acid | yield: 78% | COC=1C=C(C=C(C1)OC)N1CCN(CC1)C(=O)NC=1C=C(C(=NC1OC)C)C(C)OC(CCC(=O)O)=O | C26H34N4O8
